US04663453
A stirred solution of 38.4 g (0.20 mole) of 1,4-dichloro-2-nitrobenzene and 59.6 g (0.50 mole) of indoline in 400 ml of dimethylformamide (DMF) was heated under nitrogen at 140°-145° C. overnight (23 hours). The DMF solvent was then removed in vacuo and the residue was dissolved in 500 ml of dichloromethane. This solution was extracted with H2O, with dilute hydrochloric acid, with brine, then dried over Na2SO4 and concentrated to an oil. This was adsorbed on a tall chromatography column containing 1.5 kg of silica gel packed in toluene. Elution with toluene brought forth 22.1 g (40% overall yield) of product, which crystallized. A small portion was recrystallized from hexane to afford 1-(4-chloro-2-nitrophenyl)indoline, m.p. 97°-99° C.

reactant | 1,4-dichloro-2-nitrobenzene | 0.20 mole, 38.4 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | indoline | 0.50 mole, 59.6 g | N1CCC2=CC=CC=C12 | C8H9N
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 1-(4-chloro-2-nitrophenyl)indoline | ClC1=CC(=C(C=C1)N1CCC2=CC=CC=C12)[N+](=O)[O-] | C14H11ClN2O2
